US05563162
To a stirred solution of N-(2-methoxyethyl)-N-methyl-3-nitrobenzamide (840 mg) in ethyl acetate (8 ml) was added platinum dioxide (160 mg) and the resulting heterogeneous mixture was stirred under hydrogen atmosphere for 8 hours. The catalyst was removed by filtration and the filtrate was concentrated in vacuo. The residue was purified by flash chromatography eluting with ethyl acetate to give 3-amino-N-(2-methoxyethyl)-N-methylbenzamide (761 mg) as a brown viscous oil.

reactant | N-(2-methoxyethyl)-N-methyl-3-nitrobenzamide | 840 mg | COCCN(C(C1=CC(=CC=C1)[N+](=O)[O-])=O)C | C11H14N2O4
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum dioxide | 160 mg | [Pt](=O)=O
product | 3-amino-N-(2-methoxyethyl)-N-methylbenzamide | 761 mg | NC=1C=C(C(=O)N(C)CCOC)C=CC1 | C11H16N2O2
